US06403595B1
4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone
To 1-[1-(tert-butoxycarbonyl)-4-hydroxypiperidin-4-ylmethyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone (150 mg) were added 4N hydrochloric acid in ethyl acetate (8 ml) and methanol (4 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated, and to the residue were added 4-chloropyridine hydrochloride (81 mg), triethylamine (81 mg) and ethanol (20 ml). The mixture was allowed to react in a sealed tube at 150° C. for 15 hours. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (dichloromethane:methanol containing 10% ammonia solution=10:1) to give colorless solid of the title compound (63 mg).

reactant | 1-[1-(tert-butoxycarbonyl)-4-hydroxypiperidin-4-ylmethyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone | 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CN1C(CN(CC1)S(=O)(=O)C=1COC2=C(C1)C=CC(=C2)Cl)=O | C24H32ClN3O7S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 ml | CO | CH4O
product | 4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone | 63 mg | ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)CC2(CCN(CC2)C2=CC=NC=C2)O)=O)C=C1 | C24H27ClN4O5S
